US07994324B2
rac-N5-(1,1-Dioxo-tetrahydro-thiophen-3-yl)-N2-(6-methoxy-indan-1-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=424.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 6-methoxyindan-1-ylamine (CAS 103028-81-5) and 1,1-dioxido-tetrahydrothien-3-ylamine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 6-methoxyindan-1-ylamine | COC1=CC=C2CCC(C2=C1)N | C10H13NO
reactant | 1,1-dioxido-tetrahydrothien-3-ylamine | O=S1(CC(CC1)N)=O | C4H9NO2S
product | rac-N5-(1,1-Dioxo-tetrahydro-thiophen-3-yl)-N2-(6-methoxy-indan-1-yl)-quinoline-2,5-diamine | O=S1(CC(CC1)NC=1C=2C=CC(=NC2C=CC1)NC1CCC2=CC=C(C=C12)OC)=O | C23H25N3O3S
